US07595338B2
2-(2-Fluorophenyl)-2-methylpropionitrile (0.211 g) was magnetically stirred with aqueous solutions of 5N sodium hydroxide (2 mL), 55% tetrabutylammonium hydrogensulfate (0.1 mL) and 30% hydrogen peroxide (3 mL) for 22 hours. The reaction mixture was diluted with toluene and extracted. The aqueous phase was neutralized with 5% hydrochloric acid and extracted twice with ethyl acetate. The combined organic extracts were washed with water, then brine, and dried over anhydrous magnesium sulfate. Filtration and evaporation gave 2-(2-fluorophenyl)isobutyramide as a pale-green oil that solidified on standing (0.173 g). GC/MS: m/z 181 (RT 9.80 min.). 1H-NMR (DMSO-d6): 7.39-7.27 (m, 2H), 7.19-7.07 (m, 2H), 6.83 and 6.78 (2 s, CONH2), 1.43 (s, 6H)

reactant | 2-(2-Fluorophenyl)-2-methylpropionitrile | 0.211 g | FC1=C(C=CC=C1)C(C#N)(C)C | C10H10FN
reactant | sodium hydroxide | 5N, 2 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 3 mL | OO | H2O2
catalyst | tetrabutylammonium hydrogensulfate | 0.1 mL | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-fluorophenyl)isobutyramide | FC1=C(C=CC=C1)C(C(=O)N)(C)C | C10H12FNO
